US07166621B2
Step 2: Preparation of 3-hydroxy-4-methylthio-5-phenoxypyridine
3-Bromo-5-phenoxypyridine (0.50 g) and potassium superoxide (1.42 g) in dry dimethyl sulphoxide (100 ml) containing 1,4,7,10,13,16-hexaoxacyclooctadecane (3.20 g) were stirred at ambient temperature under an atmosphere of nitrogen for 18 hours. The solvent was evaporated under reduced pressure to a small volume and the mixture diluted with water, washed with ethyl acetate (twice) and the basic aqueous phase was acidified to pH 4 with dilute aqueous hydrochloric acid. The mixture was extracted with ethyl acetate (three times), the extracts were combined and washed with water (four times), dried over magnesium sulphate and evaporated under reduced pressure to give an oil. The oil was fractionated by chromatography (silica; diethyl ether) to give the required product, 0.19 g, as a colourless solid, m.p. 131–133° C.

reactant | 3-Bromo-5-phenoxypyridine | 0.50 g | BrC=1C=NC=C(C1)OC1=CC=CC=C1 | C11H8BrNO
reactant | potassium superoxide | 1.42 g | O=O.[K+]
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 3.20 g | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 3-hydroxy-4-methylthio-5-phenoxypyridine | OC=1C=NC=C(C1SC)OC1=CC=CC=C1 | C12H11NO2S
